US06010826
A 1-liter flask was charged with 72.1 g (0.60 mol) of 4-hydroxystyrene, 49.2 g (0.60 mol) of 2-methyl-2-butenyl methacrylate, 1.5 g (0.009 mol) of azobisisobutyronitrile and 300 ml of dioxane, and the mixture was stirred for 20 hours at 20° C. in a nitrogen gas stream. The resultant reaction mixture was poured into 5 liters of xylene, and precipitate formed was collected by filtration. The resultant solids were dissolved in 300 ml of acetone, and the solution was poured into 4 liters of n-hexane to collect precipitate formed by filtration (reprecipitation process). This reprecipitation process was repeated 3 times, and the resultant precipitate was then dried to obtain 103.5 g of a 4-hydroxystyrene/3-methyl-2-butenyl methacrylate copolymer. The GPC analysis of the copolymer thus obtained revealed that its Mw was 8,800. Besides, the 1H-NMR spectrum analysis of the polymer revealed that the copolymerization ratio of 4-hydroxystyrene to 3-methyl-2-butenyl methacrylate was 53/47.

reactant | 4-hydroxystyrene | 0.60 mol, 72.1 g | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | 2-methyl-2-butenyl methacrylate | 0.60 mol, 49.2 g | C(C(=C)C)(=O)OCC(=CC)C | C9H14O2
reactant | dioxane | 300 ml | O1CCOCC1 | C4H8O2
catalyst | azobisisobutyronitrile | 0.009 mol, 1.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | xylene | 5 liters | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxystyrene 3-methyl-2-butenyl methacrylate | 103.5 g | OC1=CC=C(C=C)C=C1.C(C(=C)C)(=O)OCC=C(C)C | InChI=1S/C9H14O2.C8H8O/c1-7(2)5-6-11-9(10)8(3)4;1-2-7-3-5-8(9)6-4-7/h5H,3,6H2,1-2,4H3;2-6,9H,1H2
